US07524840B2
A mixture of 1.8 g (0.00455 mole) of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-thione (IId), 2.26 mL of 1,1-dimethoxy-N,N-dimethyl-ethanamine and 20 mL of dimethylformamide was stirred at room temperature for 1.5 hours, then at 110° C. for 5 hours. The mixture was cooled and concentrated under reduced pressure. The crude intermediate, IIId, was stirred with a solution of 0.713 mL of anhydrous hydrazine, 9 mL of methanol and 24 mL of dichloromethane for 26 hours and then partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Chromatography on silica gel, eluting with ethyl acetate yielded 0.690 g of 7-bromo-5-(2-chlorophenyl)-1,2-dihydro-8-methoxy-3-methyl-pyrazolo[3,4-b][1,4]benzodiazepine (IVd). Recrystallization from dichloromethane provided the crystalline 7-bromo-5-(2-chlorophenyl)-1,2-dihydro-8-methoxy-3-methyl-pyrazolo[3,4-b][1,4]benzodiazepine (IVd), mp 210-211° C. MH+/Z=417.

reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-thione | 0.00455 mole, 1.8 g | BrC=1C(=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1)OC | C16H12BrClN2OS
reactant | 1,1-dimethoxy-N,N-dimethyl-ethanamine | 2.26 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 7-bromo-5-(2-chlorophenyl)-1,2-dihydro-8-methoxy-3-methyl-pyrazolo[3,4-b][1,4]benzodiazepine | 0.690 g | BrC=1C(=CC2=C(C(=NC=3C(=N2)NNC3C)C3=C(C=CC=C3)Cl)C1)OC | C18H14BrClN4O
